US04260751
5,6-Dihydro-1,5-dioxo-1H-pyrazolo[1,2-a][1,2,4]benzotriazine-2-carboxylic acid
To a solution of 3 g of 5,6-dihydro-1,5-dioxo-1H-pyrazolo[1,2-a][1,2,4]benzotriazine-2-carboxylic acid, ethyl ester of hot ethanol, there is added 10 ml of 10% aqueous sodium hydroxide and the mixture refluxed for 2 hours. The mixture is concentrated under reduced pressure and the residue dissolved in water. The solution is filtered and neutralized with dilute hydrochloric acid. The precipitated 5,6-dihydro-1,5-dioxo-1H-pyrazolo[1,2-a][1,2,4]benzotriazine-2-carboxylic acid is filtered and washed with a small amount of cold water. The product is crystallized from ethanol.

reactant | 5,6-dihydro-1,5-dioxo-1H-pyrazolo[1,2-a][1,2,4]benzotriazine-2-carboxylic acid, ethyl ester | 3 g | O=C1C(=CN2N1C1=C(NC2=O)C=CC=C1)C(=O)OCC | C13H11N3O4
reactant | sodium hydroxide | 10 ml | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 5,6-Dihydro-1,5-dioxo-1H-pyrazolo[1,2-a][1,2,4]benzotriazine-2-carboxylic acid | O=C1C(=CN2N1C1=C(NC2=O)C=CC=C1)C(=O)O | C11H7N3O4
